US09029504B2
(3,4,5-Tris(octadecyloxy)-cyclohexyl)-methanol (82.5 mg, 89.7 μmol), 2-hydroxy-9-fluorenone (26.4 mg, 135 μmol) and triphenylphosphine (35.3 mg, 135 μmol) were dissolved in dehydrated THF (1.6 mL), DIED (27 μL, 137 μmol) was added, and the mixture was stirred for 1.5 hours. THF was evaporated, and 90% aqueous acetonitrile (10 mL) was added to the residue to allow crystallization. The crystals were filtered, and the obtained crystals were washed well with acetonitrile (10 mL) to give 2-(3,4,5-tris(octadecyloxy)-cyclohexylmethoxy)-9-fluorenone (91.2 mg, 83.1 μmol, 93%).

reactant | (3,4,5-Tris(octadecyloxy)-cyclohexyl)-methanol | 89.7 μmol, 82.5 mg | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)CO | C61H122O4
reactant | 2-hydroxy-9-fluorenone | 135 μmol, 26.4 mg | OC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C13H8O2
reactant | triphenylphosphine | 135 μmol, 35.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
product | 2-(3,4,5-tris(octadecyloxy)-cyclohexylmethoxy)-9-fluorenone | 83.1 μmol, 91.2 mg, 93% | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)COC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C74H128O5
